US05049669
(-)-2-(2--Cyano-10-phenothiazinyl)propyl (S)-1-phenylethylammonium phthalate (95.4 g) is added to a solution of potassium hydroxide (23.5 g) in ethanol (1,150 cc) under reflux, and refluxing is continued with stirring for 10 minutes. The reaction mixture is then cast into ice-cold water (1 liter) and extracted with ethyl acetate (2 liters, then 500 cc). The combined organic phases are washed successively with 0.lN aqueous hydrochloric acid solution (2×500 cc), with saturated aqueous sodium hydrogen carbonate solution (2×500 cc) and with saturated aqueous sodium chloride solution (500 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow solid (44 g) is taken up with isopropyl ether (200 cc) under reflux and the product crystallizes in the heated state. The mixture is allowed to return to a temperature in the region of 20° C and the solid is drained, washed with isopropyl ether (20 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 20° C. 10-(1-Hydroxy-2-propyl)-2-phenothiazinecarbonitrile, D series (36.5 g) is thereby obtained in the form of yellow crystals, m.p. 135° C.

reactant | (-)-2-(2--Cyano-10-phenothiazinyl)propyl (S)-1-phenylethylammonium phthalate | 95.4 g | C(C=1C(C(=O)[O-])=CC=CC1)(=O)[O-].C(#N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C[NH2+][C@@H](C)C1=CC=CC=C1)C.C(#N)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C[NH2+][C@@H](C)C1=CC=CC=C1)C
reactant | potassium hydroxide | 23.5 g | [OH-].[K+]
solvent | ethanol | 1,150 cc | C(C)O | C2H6O
product | 10-(1-Hydroxy-2-propyl)-2-phenothiazinecarbonitrile | OCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C16H14N2OS
